US07259183B2
Preparation of [4-(1-methoxycyclopropyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 4-(1-methoxy-cyclopropyl)-benzaldehyde (105 mg, 0.60 mmol), 2-(3-trifluoromethylphenyl)-ethylamine (113 mg, 0.60 mmol) and sodium borohydride (34 mg, 0.89 mmol). The desired product was isolated without further purification as a colorless oil. MS (ISP) 350.4 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-(1-methoxy-cyclopropyl)-benzaldehyde | 0.60 mmol, 105 mg | COC1(CC1)C1=CC=C(C=O)C=C1 | C11H12O2
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 0.60 mmol, 113 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 0.89 mmol, 34 mg | [BH4-].[Na+]
product | [4-(1-methoxycyclopropyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine | COC1(CC1)C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C20H22F3NO
